US07674809B2
25b) Methyl 4-(5-nitro-1H-benzimidazol-2-yl)benzo-ate
Sodium bisulfite (7.0 g, 0.036 mol) in water (70 ml) is added to 4-carboxybenzaldehyde (11.0 g, 0.071 mol) in ethanol (70 ml). The mixture is stirred at room temperature for 15 minutes, the solid is filtered off, the filtrate is coevaporated with toluene and a solution of 2-amino-5-nitroaniline (11.1 g, 0.071 mol) in DMF (250 ml) is added. This mixture is refluxed for 3 hours and concentrated, and the product is recrystallized from dilute HCl, filtered off and washed with water. The solid is suspended in methanol (300 ml) and HCl gas is bubbled through at 5-15° C. for 3 hours. The mixture is allowed to warm to room temperature and is then refluxed for 3 hours. The solution is concentrated to 1/3 of its volume and cooled to +5° C., and the precipitate is filtered off and recrystallized from NaHCO3 and finally from 3/1 isopropyl ether/hexane. Yield: 15 g (71%); IR (KBr): 3570, 3472, 3112, 1707, 1301 cm−1; 1H-NMR (d6-DMSO) 7.7-8.5 (m, 7H); 5.9 (m, 1H); 3.88 (s, 3H).

reactant | Sodium bisulfite | 0.036 mol, 7.0 g | S([O-])(O)=O.[Na+]
reactant | 4-carboxybenzaldehyde | 0.071 mol, 11.0 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | 2-amino-5-nitroaniline | 0.071 mol, 11.1 g | NC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H7N3O2
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | water | 70 ml | O | H2O
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | Methyl 4-(5-nitro-1H-benzimidazol-2-yl)benzo-ate | [N+](=O)([O-])C1=CC2=C(NC(=N2)C2=CC=C(C(=O)OC)C=C2)C=C1 | C15H11N3O4
